US05171746
5-chloro-2-[(2-morpholinoethyl)thio]benzothiazole
Dissolved in 5 ml of N,N-dimethylformamide was 1.00 g (5.0 mmol) of 5-chloro-2-mercaptobenzothiazole, and 0.26 g (10.8 mmol) of hydrogenated sodium were added to the solution, which was stirred at room temperature. One hour later, 0.93 g (5.0 mmol) of a hydrochloride of 2-chloroethylmorpholine were added to the suspension, which was then stirred for 2 hours at 80° C. The solution was diluted with 100 ml of chloroform, followed by addition of 100 ml of a 5% saline solution and washing. After separation of the chloroform layer, the organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo. The residues were purified by silica gel chromatography to obtain 1.05 g of white crystalline powders (67% yield).

reactant | 5-chloro-2-mercaptobenzothiazole | 5.0 mmol, 1.00 g | ClC=1C=CC2=C(N=C(S2)S)C1 | C7H4ClNS2
reactant | hydrochloride | 5.0 mmol, 0.93 g | Cl | ClH
reactant | 2-chloroethylmorpholine | ClCCN1CCOCC1 | C6H12ClNO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-2-[(2-morpholinoethyl)thio]benzothiazole | 1.05 g, 67% yield | ClC=1C=CC2=C(N=C(S2)SCCN2CCOCC2)C1 | C13H15ClN2OS2
